US08198449B2
Sodium 2′-(dicyclohexylphosphino)-2,6-dimethoxybiphenyl-3-sulfonate (9.8 mg, 0.019 mmol), PdOAc2 (2.2 mg, 9.6 μmol), Cs2CO3 (93 mg, 0.29 mmol), 4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoic acid (38 mg, 0.14 mmol) was added to a stirring solution of 2-(4-fluorophenyl)-3-(methylcarbamoyl)furo[2,3-c]pyridin-5-yl trifluoromethanesulfonate (40 mg, 0.096 mmol) in DMF (1.7 mL) and Water (170 μl). It was degassed and heated to 60° C. and allowed to stir for 1 hour. The mixture was diluted with ethyl acetate and washed with 1M HCl, and sat NaCl. The organic phase was dried over Na2SO4, filtered and concentrated to give 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)furo[2,3-c]pyridin-5-yl)-4-methylbenzoic acid. The residue was diluted with DMF (1.7 mL) and treated with HAM (55 mg, 0.15 mmol), 1-(pyridin-2-yl)cyclopropanamine dihydrochloride (30 mg, 0.15 mmol), followed by DIEA (84 μL, 0.48 mmol) at room temperature. The reaction was allowed to stir for 1 hr. The mixture was diluted with EtOAc and washed with 1M NaOH, and sat NaCl. The organic phase was dried over Na2SO4, filtered, concentrated and was purified on silica gel (Biotage, EtOAc/hexanes gradient, fraction collection at λ=254 nm) to give 2-(4-fluorophenyl)-N-methyl-5-(2-methyl-5-(1-(pyridin-2-yl)cyclopropylcarbamoyl)phenyl)furo[2,3-c]pyridine-3-carboxamide (5.4 mg, 9.85 μmol, 10% yield) consistent by LCMS and NMR. 1H NMR (500 MHz, MeOD) δ ppm 7.68-7.73 (1H, m), 7.10-7.18 (1H, m), 6.75-6.82 (2H, m), 6.68-6.72 (1H, m), 6.61-6.66 (1H, m), 6.54-6.59 (1H, m), 6.38-6.46 (1H, m), 6.15-6.24 (2H, m), 6.02-6.09 (2H, m), 5.85-5.92 (1H, m), 1.69 (3H, s), 1.12 (3H, s), 0.38-0.43 (2H, m), 0.07-0.13 (2H, m). LC-MS retention time: 0.913 min; m/z (MID): 521. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters SunFire 5u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 3 min, a hold time of 1 min, and an analysis time of 4 min where solvent A was 10% acetonitrile/90% H2O/0.1% trifluoroacetic acid and solvent B was 10% H2O/90% acetonitrile/0.1% trifluoroacetic acid. MS data was determined using a Micromass Platform for LC in electrospray mode. Additional HPLC method: Solvent A=5% CH3CN/95% H2O/0.1% TFA, Solvent B=95% CH3CN/5% H2O/0.1% TFA, Start % B=10, Final % B=100, Gradient time=15 min, Stop time=18 min, Flow Rate=1 ml/min. Column: Waters Sunfire C-18, 4.6×150 mm, 3.5 mm, Rt=5.61 min, purity=95%; Column: Waters Xbridge Phenyl column 4.6×150 mm, 3.5 mm, Rt=6.00 min, purity=96%. Additional HPLC method: Solvent A=5% MeOH/95% H2O/10 mM ammonium bicarbonate, Solvent B=95% MeOH/5% H2O/10 mM ammonium bicarbonate, Start % B=10, Final % B=100, Gradient time=15 min, Stop time=18 min, Flow Rate=1 ml/min. Column: Phenomenex Gemini C1 C-18, 4.6×150 mm, 3 mm, Rt=9.41 min, purity=97%; Column: Waters Xbridge Phenyl column 4.6×150 mm, 3.5 mm, Rt=9.38 min, purity=100%.

reactant | Sodium 2′-(dicyclohexylphosphino)-2,6-dimethoxybiphenyl-3-sulfonate | 0.019 mmol, 9.8 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C(=CC=C1OC)S(=O)(=O)[O-])OC)C1CCCCC1.[Na+]
reactant | Cs2CO3 | 0.29 mmol, 93 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoic acid | 0.14 mmol, 38 mg | CC1=C(C=C(C(=O)O)C=C1)B1OC(C(O1)(C)C)(C)C | C14H19BO4
reactant | 2-(4-fluorophenyl)-3-(methylcarbamoyl)furo[2,3-c]pyridin-5-yl trifluoromethanesulfonate | 0.096 mmol, 40 mg | FC(S(=O)(=O)OC=1C=C2C(=CN1)OC(=C2C(NC)=O)C2=CC=C(C=C2)F)(F)F | C16H10F4N2O5S
solvent | DMF | 1.7 mL | CN(C)C=O | C3H7NO
solvent | Water | 170 μl | O | H2O
product | 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)furo[2,3-c]pyridin-5-yl)-4-methylbenzoic acid | FC1=CC=C(C=C1)C1=C(C=2C(=CN=C(C2)C=2C=C(C(=O)O)C=CC2C)O1)C(NC)=O | C23H17FN2O4
